US05300503
A solution of 10.0 grams (0.035 mole) of 4,6-diamino-1,2-dihydro-1-phenylmethoxy-2,2-dimethyl-1,3,5-triazine hydrochloride and 20 ml of water in 30 ml of ethanol was hydrogenated in the presence of 1.0 gram of 5% palladium on charcoal using a Parr hydrogenator. Upon completion of the uptake of the theoretical amount of hydrogen, the reaction mixture was filtered. The filtrate was concentrated under reduced pressure to a residual solid. The solid was recrystallized from ethanol, yielding 4.7 grams of 4,6-diamino-1,2-dihydro-1-hydroxy-2,2-dimethyl-1,3,5-triazine hydrochloride, m.p. 241° C. (dec.). The NMR spectrum was consistent with the proposed structure. The reaction was repeated several times to provide sufficient material for the next step.

reactant | 4,6-diamino-1,2-dihydro-1-phenylmethoxy-2,2-dimethyl-1,3,5-triazine hydrochloride | 0.035 mole, 10.0 grams | Cl.NC1=NC(N(C(=N1)N)OCC1=CC=CC=C1)(C)C
reactant | water | 20 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.0 gram | [Pd] | Pd
product | 4,6-diamino-1,2-dihydro-1-hydroxy-2,2-dimethyl-1,3,5-triazine hydrochloride | 4.7 grams | Cl.NC1=NC(N(C(=N1)N)O)(C)C | InChI=1S/C5H11N5O.ClH/c1-5(2)9-3(6)8-4(7)10(5)11;/h11H,1-2H3,(H4,6,7,8,9);1H
